US06297375B1
c) 4-(2-Chloro-phenyl)-pyridin-3-ylamine
A suspension of 22.2 g (77 mmol) N-[4-(2-chloro-phenyl)-pyridin-3-yl]-2,2-dimethyl-propionamide in 730 ml 3 N hydrochloric acid solution was heated to 90-95° C. overnight. The reaction mixture was cooled to room temperature, washed with three 130 ml portions diethyl ether and 500 ml ethyl acetate were added. The aqueous phase was adjusted to pH 7-8 by addition of 28% sodium hydroxide solution under ice cooling. The organic phase was separated and the product was extracted with three 200 ml portions of ethyl acetate. The combined organic layers were dried (magnesium sulfate) and evaporated to give 14.9 g (95%) of the title compound as white crystals.

reactant | N-[4-(2-chloro-phenyl)-pyridin-3-yl]-2,2-dimethyl-propionamide | 77 mmol, 22.2 g | ClC1=C(C=CC=C1)C1=C(C=NC=C1)NC(C(C)(C)C)=O | C16H17ClN2O
solvent | hydrochloric acid | 3 N, 730 ml | Cl | ClH
product | 4-(2-Chloro-phenyl)-pyridin-3-ylamine | 14.9 g, 95% | ClC1=C(C=CC=C1)C1=C(C=NC=C1)N | C11H9ClN2
